US04670448
3-(Chloromethyl)-1-methyl-N-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]-1H-1,2,4-triazole-5-amine
A mixture of 1-methyl-5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-methanol (0.75 g) and thionyl chloride (4 ml) was stirred at room temperature for 2 h. The mixture was evaporated in vacuo and the residue was dissolved in chloroform and washed with sodium bicarbonate. The organic extract was dried and evaporated to give the title compound as an oil (0.75 g) T.l.c. System E Rf 0.65.

reactant | 1-methyl-5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-methanol | 0.75 g | CN1N=C(N=C1NCCCCOC1=CC(=CC=C1)CN1CCCCC1)CO | C20H31N5O2
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(Chloromethyl)-1-methyl-N-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]-1H-1,2,4-triazole-5-amine | 0.75 g | ClCC1=NN(C(=N1)NCCCCOC1=CC(=CC=C1)CN1CCCCC1)C | C20H30ClN5O
